US08110579B2
According to the saponification/peptide coupling steps described in examples 1.7 and 10.6 respectively, starting from 835 mg (1.90 mmol) of methyl 5-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-6-(2-methylphenyl)nicotinate and 258 mg (1.97 mmol) of racemic 3-amino-4-methylpentanoic acid, we obtain 130 mg of 3-({[5-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-6-(2-methylphenyl)pyridin-3-yl]carbonyl}amino)-4-methylpentanoic acid hydrochloride in the form of a white solid.

reactant | methyl 5-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-6-(2-methylphenyl)nicotinate | 1.90 mmol, 835 mg | ClC1=C(C=C(C=C1)C=1C(=NC=C(C(=O)OC)C1)C1=C(C=CC=C1)C)OCCCN(C)C | C25H27ClN2O3
reactant | racemic 3-amino-4-methylpentanoic acid | 1.97 mmol, 258 mg | NC(CC(=O)O)C(C)C | C6H13NO2
product | 3-({[5-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-6-(2-methylphenyl)pyridin-3-yl]carbonyl}amino)-4-methylpentanoic acid hydrochloride | 130 mg, Yield=13% | Cl.ClC1=C(C=C(C=C1)C=1C=C(C=NC1C1=C(C=CC=C1)C)C(=O)NC(CC(=O)O)C(C)C)OCCCN(C)C | InChI=1S/C30H36ClN3O4.ClH/c1-19(2)26(17-28(35)36)33-30(37)22-15-24(29(32-18-22)23-10-7-6-9-20(23)3)21-11-12-25(31)27(16-21)38-14-8-13-34(4)5;/h6-7,9-12,15-16,18-19,26H,8,13-14,17H2,1-5H3,(H,33,37)(H,35,36);1H
